US05574042
To a solution of 8-[2,6-dichloro-3-(2-pyrrolidon-1-yl) benzyloxy]-2-methylimidazo[1,2-a]pyridine (120 mg) in tetrahydrofuran (3 ml) was added lithium aluminum hydride (19 mg) under ice-cooling, and the mixture was stirred for hours. A saturated aqueous ammonium chloride solution was added thereto, and insoluble material was filtered off. The filtrate was concentrated, and the residue was purified by preparative thin-layer chromatography (5% solution of methanol in methylene chloride) to give 8-[2,6-dichloro-3-(1-pyrrolidinyl)benzyloxy]-2-methylimidazo[1,2-a]pyridine (23 mg).

reactant | 8-[2,6-dichloro-3-(2-pyrrolidon-1-yl) benzyloxy]-2-methylimidazo[1,2-a]pyridine | 120 mg | ClC1=C(COC=2C=3N(C=CC2)C=C(N3)C)C(=CC=C1N1C(CCC1)=O)Cl | C19H17Cl2N3O2
reactant | lithium aluminum hydride | 19 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 8-[2,6-dichloro-3-(1-pyrrolidinyl)benzyloxy]-2-methylimidazo[1,2-a]pyridine | 23 mg | ClC1=C(COC=2C=3N(C=CC2)C=C(N3)C)C(=CC=C1N1CCCC1)Cl | C19H19Cl2N3O
